US07517889B2
A solution of {6-[3-(2-amino-ethyl)-phenyl]-2-methoxy-pyrimidin-4-yl}-[2-(2-fluoro-4-trifluoromethyl-phenyl)-ethyl]-amine (150 mg, 0.35 mmol) and triethylamine (0.24 mL, 1.73 mmol) in DCM (5 mL) is treated with methoxyacetyl chloride (75 mg, 0.69 mmol) at 10° C. After 10 minutes at 10° C., the mixture is quenched with aqueous NaHCO3 solution (8 mL), and filtered through Chem-Elut with CH2Cl2 washing (10 mL). The filtrate is concentrated, and subjected to chromatography on silica gel eluting with 80% EtOAc in heptane to 5% MeOH in CH2Cl2 to give N-[2-(3-{6-[2-(2-fluoro-4-trifluoromethyl-phenyl)-ethylamino]-2-methoxy-pyrimidin-4-yl}-phenyl)-ethyl]-2-methoxy-acetamide, which is treated with saturated solution of hydrogen chloride in EtOAc followed by lyophilization to afford N-[2-(3-{6-[2-(2-fluoro-4-trifluoromethyl-phenyl)-ethylamino]-2-methoxy-pyrimidin-4-yl}-phenyl)-ethyl]-2-methoxy-acetamide hydrochloride [76 mg, Example 64]. LCMS: RT=2.24 minutes, MS: 507 (M+H). 1H NMR (300 MHz, CDCl3), □9.35 (1H, s), 7.9 (1H, brs), 7.6-7.4 (7H, m), 6.65 (1H, s), 4 (3H, s), 3.76 (3H, s), 3.8-3.7 (2H, m), 3.4 (2H, q, J=6.9 Hz), 3.25 (2H, s), 3.06 (2H, t, J=6.6 Hz), 2.82 (2H, t, J=7.5 Hz). IC50=56 nM

reactant | {6-[3-(2-amino-ethyl)-phenyl]-2-methoxy-pyrimidin-4-yl}-[2-(2-fluoro-4-trifluoromethyl-phenyl)-ethyl]-amine | 0.35 mmol, 150 mg | NCCC=1C=C(C=CC1)C1=CC(=NC(=N1)OC)NCCC1=C(C=C(C=C1)C(F)(F)F)F | C22H22F4N4O
reactant | triethylamine | 1.73 mmol, 0.24 mL | C(C)N(CC)CC | C6H15N
reactant | methoxyacetyl chloride | 0.69 mmol, 75 mg | COCC(=O)Cl | C3H5ClO2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | N-[2-(3-{6-[2-(2-fluoro-4-trifluoromethyl-phenyl)-ethylamino]-2-methoxy-pyrimidin-4-yl}-phenyl)-ethyl]-2-methoxy-acetamide | FC1=C(C=CC(=C1)C(F)(F)F)CCNC1=CC(=NC(=N1)OC)C=1C=C(C=CC1)CCNC(COC)=O | C25H26F4N4O3
